US08227601B2
To a suspension of 7-benzyl-4-chloro-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine (200 mg, 0.78 mmol) and 2,4,6-trimethylaniline (0.44 mL, 3.08 mmol) in 2,2,2-trifluoroethanol (4 mL) was added trifluoroacetic acid (0.48 mL, 6.24 mmol). The resulting solution was heated at 100° C. for 2 days and cooled to room temperature. The reaction was concentrated to brown oil and diluted with CH2Cl2 (30 mL). The organic solution was washed with aqueous NaHCO3 solution (20 mL) and brine (20 mL), dried with Na2SO4, and concentrated to dryness. Silica gel chromatography (CH2Cl2:MeOH=95:5) yielded 251 mg (90%) of 7-benzyl-N4-(2,4,6-trimethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine.

reactant | 7-benzyl-4-chloro-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine | 0.78 mmol, 200 mg | C(C1=CC=CC=C1)N1C=CC2=C1N=C(N=C2Cl)N | C13H11ClN4
reactant | 2,4,6-trimethylaniline | 3.08 mmol, 0.44 mL | CC1=C(N)C(=CC(=C1)C)C | C9H13N
reactant | trifluoroacetic acid | 6.24 mmol, 0.48 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | 2,2,2-trifluoroethanol | 4 mL | FC(CO)(F)F | C2H3F3O
product | 7-benzyl-N4-(2,4,6-trimethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine | 251 mg, 90% | C(C1=CC=CC=C1)N1C=CC2=C1N=C(N=C2NC2=C(C=C(C=C2C)C)C)N | C22H23N5
